US05238948
18. Di-(α-methoxycarbonylbenzyl) pyridine-2,5-dicarboxylate
Analogously to Example 1, 10 g of pyridine-2,5-dicarboxylic acid are converted into the acid chloride and this is reacted with 19.9 g of methyl (±)-mandelate. After extraction, working up is carried out by chromatography over silica gel with a mixture of toluene and ethyl acetate as the mobile phase.

reactant | pyridine-2,5-dicarboxylic acid | 10 g | N1=C(C=CC(=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | methyl (±)-mandelate | 19.9 g | C(C(O)C1=CC=CC=C1)(=O)OC | C9H10O3
product | Di-(α-methoxycarbonylbenzyl) pyridine-2,5-dicarboxylate | N1=C(C=CC(=C1)C(=O)OC(C1=CC=CC=C1)C(=O)OC)C(=O)OC(C1=CC=CC=C1)C(=O)OC | C25H21NO8
